US05488055
A mixture of DMSO (6 mL), chloroethylmorpholine hydrochloride (1.23 g, 6.6 mmol), 1-ethyl-6-hydroxy-N- (cyclohexylmethyl) -1H-pyrazolo[3,4-b]quinolin-4-amine (2 g, 6.6 mmol) and KOH (1 g) was stirred at room temperature overnight. The reaction mixture was partitioned between CH2Cl2 and water and the CH2Cl2 layer was separated and evaporated. The residue was purified by column chromatography on silica gel eluting with 10% ethanol/ethyl acetate to afford the product as the free base. The free base was recrystallized from hot ethyl acetate/hexane to afford 0.425 g of 1-ethyl-6-[2-(4-morpholinyl)ethoxy]-N-(cyclohexylmethyl)-1H-pyrazolo[ 3,4-b]quinolin-4-amine, as a yellow powder, m.p. 176°-178° C.

reactant | chloroethylmorpholine hydrochloride | 6.6 mmol, 1.23 g | Cl.ClCCN1CCOCC1
reactant | 1-ethyl-6-hydroxy-N- (cyclohexylmethyl) -1H-pyrazolo[3,4-b]quinolin-4-amine | 6.6 mmol, 2 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2NCC2CCCCC2)O | C19H24N4O
reactant | KOH | 1 g | [OH-].[K+]
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | 1-ethyl-6-[2-(4-morpholinyl)ethoxy]-N-(cyclohexylmethyl)-1H-pyrazolo[ 3,4-b]quinolin-4-amine | 0.425 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2NCC2CCCCC2)OCCN2CCOCC2 | C25H35N5O2
